US04200641
To a stirred mixture of 50 parts of 1H-benzimidazole-1-butanol and 375 parts of trichloromethane are added dropwise 35.2 parts of sulfinyl chloride. Upon completion, stirring is continued for 3 hours at reflux temperature. The reaction mixture is evaporated. The residue is taken up in trichloromethane. The whole is washed with ammonium hydroxide and the solvent is evaporated. The residue is purified by column-chromatography over silica gel using trichloromethane as eluent. The pure fractions are collected and the eluent is evaporated, yielding 1-(4-chlorobutyl)-1H-benzimidazole as an oily residue.

reactant | 1H-benzimidazole-1-butanol | N1(C=NC2=C1C=CC=C2)CCCCO | C11H14N2O
reactant | sulfinyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 1-(4-chlorobutyl)-1H-benzimidazole | ClCCCCN1C=NC2=C1C=CC=C2 | C11H13ClN2
